US06936612B2
6-Bromo-8-cyclopentyl-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one and 2-aminopyridine were reacted according to the procedure outlined in Example 37 to provide 6-bromo-8-cyclopentyl-2-(pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one in 37% yield. mp: 273˜275° C. Anal. Calc'd for C17H16BrN5O.0.1H2O: C, 52.62; H, 4.21; N, 18.05. Found: C, 52.23; H, 4.10; N, 17.91. M++1: Calc'd: 386.05, Found 385.9.

reactant | 6-Bromo-8-cyclopentyl-2-methanesulfinyl-8H-pyrido[2,3-d]pyrimidin-7-one | BrC1=CC2=C(N=C(N=C2)S(=O)C)N(C1=O)C1CCCC1 | C13H14BrN3O2S
reactant | 2-aminopyridine | NC1=NC=CC=C1 | C5H6N2
product | 6-bromo-8-cyclopentyl-2-(pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one | 37% yield | BrC1=CC2=C(N=C(N=C2)NC2=NC=CC=C2)N(C1=O)C1CCCC1 | C17H16BrN5O
